US08808703B2
Step 3: diethyl 4-amino-1,1-difluorobutylphosphonate hydrochloride
To a solution of diethyl 4-azido-1,1-difluorobutylphosphonate (1 eq) in EtOH (2 M) was added palladium hydroxide (0.05 eq) and 2 M HCl in ether (1.1 eq). The reaction mixture was stirred under hydrogen (1 atm) overnight. The palladium was filtered off and the filtrate was concentrated en vaccuo. The crude mixture was used for the next reaction without further purification.

reactant | diethyl 4-azido-1,1-difluorobutylphosphonate | 1 eq | N(=[N+]=[N-])CCCC(F)(F)P(OCC)(OCC)=O | C8H16F2N3O3P
reactant | HCl | 2 M | Cl | ClH
reactant | ether | 1.1 eq | CCOCC | C4H10O
solvent | EtOH | 2 M | CCO | C2H6O
catalyst | palladium hydroxide | 0.05 eq | [OH-].[Pd+2].[OH-]
product | diethyl 4-amino-1,1-difluorobutylphosphonate hydrochloride | Cl.NCCCC(F)(F)P(OCC)(OCC)=O | InChI=1S/C8H18F2NO3P.ClH/c1-3-13-15(12,14-4-2)8(9,10)6-5-7-11;/h3-7,11H2,1-2H3;1H
